US07598377B2
8-(1-methansulfonyloxyethyl)-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one
A mixture of 8-(1-hydroxyethyl)-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one (2.4 g) in dichloromethane (100 ml) in an ice bath, was treated with triethylamine (1.3 ml) followed by methanesulfonylchloride (0.67 ml) and the mixture stirred at 0° C. for 30 minutes. The solution was then washed with 0.1N HCl (aq) (2×30 ml), dried (Na2SO4) and the solvent removed to yield a oily brown solid, which was not further purified.

reactant | 8-(1-hydroxyethyl)-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one | 2.4 g | OC(C)C1=CC(=CC=2C(C=C(OC21)C2=CC=NC=C2)=O)C | C17H15NO3
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 0.67 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-(1-methansulfonyloxyethyl)-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one | CS(=O)(=O)OC(C)C1=CC(=CC=2C(C=C(OC21)C2=CC=NC=C2)=O)C | C18H17NO5S
